US08242125B2
5-[2-(1-Hydroxy-1-methyl-ethyl)-pyridin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
Methyl magnesium iodide (0.30 mL, 3.0 M) is added to a solution of 4-[1-(3-Trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyridine-2-carboxylic acid tert-butyl ester (0.150 g, 0.302 mmol) in THF (5 mL) at rt. After stirring overnight the reaction is diluted with MeOH (5 mL) and workup done with DCM and pH 7 buffer. Following concentration the residue is separated by FCC (80-100% EtOAc/heptane) to give the title compound. MS (ESI) m/z 456.1 (M+1).

reactant | Methyl magnesium iodide | 3.0 M, 0.30 mL | C[Mg]I
reactant | 4-[1-(3-Trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyridine-2-carboxylic acid tert-butyl ester | 0.302 mmol, 0.150 g | C(C)(C)(C)OC(=O)C1=NC=CC(=C1)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O | C26H22F3N3O4
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 5 mL | CO | CH4O
product | 5-[2-(1-Hydroxy-1-methyl-ethyl)-pyridin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)C(C)(C)O)(F)F | C24H20F3N3O3
